US04382939
9-Chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Concentrated hydrochloric acid (8 ml) is added to a stirred suspension of 9-amino-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one (1.5 g, 0.0065 moles) in water (5 ml). The solution is cooled to -5° C. and a solution of sodium nitrite (0.45 g, 0.0065 moles) in water (4 ml) is added dropwise. After 15 minutes the mixture is added to a solution of freshly prepared cuprous chloride (0.8 g, 0.008 moles) in 20% HCl (8 ml) and stirred for 15 minutes. The suspension is warmed on the steam bath for one hour, allowed to cool, and 10% aqueous potassium carbonate is added until the mixture is basic. The precipitate is filtered off, rinsed with water, dissolved in warm dilute hydrochloric acid, filtered, and reprecipitated by the addition of concentrated ammonium hydroxide. The precipiate is filtered off, rinsed with water, and dried. Recrystallization from ethyl acetate gave the product (0.8 g), mp 184°- 185° C.

reactant | 9-amino-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.0065 moles, 1.5 g | NC=1C(=CC2=C(C1)C1=C(CNCC1)C(O2)=O)C | C13H14N2O2
reactant | sodium nitrite | 0.0065 moles, 0.45 g | N(=O)[O-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 8 ml | Cl | ClH
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 9-Chloro-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.8 g | ClC=1C(=CC2=C(C1)C1=C(CNCC1)C(O2)=O)C | C13H12ClNO2
